US06057311
c. (1R,3S)-benzyl 2-acetyl-1-(1-adamantyl)methyl-9-benzyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate
A solution of (1R,3S)-benzyl 2-acetyl-1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate (6.3 g, 12.7 mmol) in dry DMF (50 ml) was added dropwise to a slurry of sodium hydride (60% dispersion in oil/0.56 g, 14 mmol) in dry DMF (20 ml) under nitrogen at room temperature. The reaction mixture was stirred for 15 minutes at room temperature to which was added dropwise a solution of benzyl bromide (1.6 ml, 13.5 mmol) in DMF (10 ml). The reaction was stirred for a further one hour, diluted with ethyl acetate (150 ml), washed successively with 2N HCl (150 ml), brine (3×150 ml) and dried (MgSO4). Filtration and evaporation of the solvent gave the product as a yellow foam which was used without further purification. (7.45 g, 100%).

reactant | (1R,3S)-benzyl 2-acetyl-1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate | 12.7 mmol, 6.3 g | C(C)(=O)N1[C@@H](C=2NC3=CC=CC=C3C2C[C@H]1C(=O)OCC1=CC=CC=C1)CC12CC3CC(CC(C1)C3)C2 | C32H36N2O3
reactant | sodium hydride | 14 mmol, 0.56 g | [H-].[Na+]
reactant | benzyl bromide | 13.5 mmol, 1.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (1R,3S)-benzyl 2-acetyl-1-(1-adamantyl)methyl-9-benzyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate | C(C)(=O)N1[C@@H](C=2N(C3=CC=CC=C3C2C[C@H]1C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)CC12CC3CC(CC(C1)C3)C2 | C39H42N2O3
